### PR TITLE
Coequalizer

### PR DESCRIPTION
**Pull request by tillrampe**
This pull request is part of a bigger result: construction of the bicategory of monads and bimodules.
All technical lemmas about coequalizers needed in the construction are gathered in this pull request.

### CODE REVIEW

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 1]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+              → (Coequalizer.arr coeq₂ ∘ β) ∘ f₁ ≈ (Coequalizer.arr coeq₂ ∘ β) ∘ g₁
+  ⇒coequalize {A₁} {B₁} {A₂} {B₂} {f₁} {g₁} {f₂} {g₂} α β sq₁ sq₂ coeq₂ = begin
+    (Coequalizer.arr coeq₂ ∘ β) ∘ f₁ ≈⟨ extendˡ (⟺ sq₁) ⟩
+    (Coequalizer.arr coeq₂ ∘ f₂) ∘ α ≈⟨ equality₂ ⟩∘⟨refl ⟩
+    (Coequalizer.arr coeq₂ ∘ g₂) ∘ α ≈⟨ extendˡ sq₂ ⟩
+    (Coequalizer.arr coeq₂ ∘ β) ∘ g₁ ∎
+    where
+      open HomReasoning
+      open MR 𝒞
+      open Coequalizer coeq₂
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:141]: As you have this open, `Coequalizer.arr coeq₂` above can be just `arr`

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 2]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+                  → (α : A₁ ⇒ A₂)
+                  → (β : B₁ ⇒ B₂)
+                  → (sq₁ : CommutativeSquare α f₁ f₂ β)               -- f₂ ∘ α ≈ β ∘ f₁
+                  → (sq₂ : CommutativeSquare α g₁ g₂ β)               -- g₂ ∘ α ≈ β ∘ g₁
+                  → (coeq₁ : Coequalizer f₁ g₁)
+                  → (coeq₂ : Coequalizer f₂ g₂)
+                  → CommutativeSquare
+                      β (Coequalizer.arr coeq₁)
+                      (Coequalizer.arr coeq₂) (⇒MapBetweenCoeq α β sq₁ sq₂ coeq₁ coeq₂)
+  ⇒MapBetweenCoeqSq α β sq₁ sq₂ coeq₁ coeq₂ = universal₁
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:172]: I think here that `IsCoequalizer.universal (Coequalizer.isCoequalizer coeq₁)` might be clearer that all those renamings below.

Hmm, why is `Coequalizer.universal coeq₁` not enough?

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 3]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+      open Coequalizer coeq₁ renaming (isCoequalizer to isCoequalizer₁)
+      open IsCoequalizer isCoequalizer₁ renaming (universal to universal₁)
+
+open MapBetweenCoequalizers public
+
+CoeqOfIsomorphicDiagram : {A B : Obj} {f g : A ⇒ B} (coeq : Coequalizer f g )
+                        → {A' B' : Obj}
+                        → (a : A ≅ A') (b : B ≅ B')
+                        → Coequalizer (_≅_.from b ∘ f ∘ _≅_.to a) (_≅_.from b ∘ g ∘ _≅_.to a)
+CoeqOfIsomorphicDiagram {A} {B} {f} {g} coeq {A'} {B'} a b = record
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:183]: please remove the implicits that are not actually used below (and everywhere in this PR).

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 4]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+  { arr = arr ∘ _≅_.to b
+  ; isCoequalizer = record
+    { equality = begin
+        (arr ∘ _≅_.to b) ∘ _≅_.from b ∘ f ∘ _≅_.to a ≈⟨ assoc²γβ ⟩
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:187]: Align the proofs please.

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 5]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+                → obj ⇒ C
+    coequalize' {C} {h} eq = coequalize (equalize'⇒equalize eq)
+
+
+-- coequalizer commutes with coequalizer
+module CoequalizerOfCoequalizer
+  {A B C D : Obj} {f₁ f₂ : A ⇒ B} {g₁ g₂ : A ⇒ C} {h₁ h₂ : B ⇒ D} {i₁ i₂ : C ⇒ D}
+  (coeqᶠ : Coequalizer f₁ f₂) (coeqᵍ : Coequalizer g₁ g₂)
+  (coeqʰ : Coequalizer h₁ h₂) (coeqⁱ : Coequalizer i₁ i₂)
+  (f⇒i₁ f⇒i₂ : Coequalizer.obj coeqᶠ ⇒ Coequalizer.obj coeqⁱ)
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:233]: maybe put `let open Coequalizer` in this telescope, so you can shorten the rest?

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 6]
```diff
@@ -63,8 +63,325 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+               .               coequalize
+               .                       ^
+               .                       .
+               .........................
+                            u
+  -}
+
+  -- We construct a coequalizer of the parallel pair f⇒i₁, f⇒i₂
+
+  open HomReasoning
```
Comment (JacquesCarette) [inline src/Categories/Diagram/Coequalizer/Properties.agda:261]: I would definitely want to `open Coequalizer` inside the module, to make reading what's below lighter.

Comment (tillrampe) [reply src/Categories/Diagram/Coequalizer/Properties.agda:261]: After thinking about this I decided to `open Coequalizer` as you suggested; this will require renaming some of the variables in the module.

File: src/Categories/Diagram/Coequalizer/Properties.agda (hunk 2 above)
Comment (tillrampe) [reply src/Categories/Diagram/Coequalizer/Properties.agda:172]: You're right: `Coequalizer.universal coeq₁` is enough and more concise.

File: src/Categories/Diagram/Coequalizer/Properties.agda (hunk 1 above)
Comment (tillrampe) [reply src/Categories/Diagram/Coequalizer/Properties.agda:141]: I decided it's best to not `open Coequalizer coeq ₁ `. Instead I'm gonna `open Coequalizer` in the module `MapBetweenCoequalizers`.

**Comment by tillrampe** [comment]
Yes, this is ready for re-review. I should have addressed all your requests.
Concerning the CI, the job `test-categories` is failing with the error `agda: command not found`, so it looks like the environment is missing Agda.

**Comment by JacquesCarette** [comment]
The cache seemed to have gotten 'dirty', so I've flushed it. Hopefully that will help.

File: src/Categories/Diagram/Coequalizer/Properties.agda [hunk 7]
```diff
@@ -63,8 +63,317 @@ regular-is-coeq-kp {A} {B} f record { C = D ; h = h ; g = g ; coequalizer = coeq
...
+  ; unique = λ {C} {h} {i} {h∘f≈h∘g} h≈i∘e → begin
+    i         ≈⟨ introʳ sisSection ⟩
+    i ∘ e ∘ s ≈⟨ pullˡ (⟺ h≈i∘e) ⟩
+    h ∘ s     ∎
+  }
+  where
+    open HomReasoning
+    open MR 𝒞
+
+splitCoequalizer⇒Coequalizer-sym : {A B C : Obj} {f g : A ⇒ B} {e : B ⇒ C}
```
[the remark this answers is not in the document]
Comment (tillrampe) [reply src/Categories/Diagram/Coequalizer/Properties.agda:97]: I don't see the benefit of making the module anonymous. I'll call it `SplitCoequalizer` instead and `open` it after its definition.

[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Diagram/Coequalizer/Properties.agda]: Sure, I don't mind that.

**Review by JacquesCarette — APPROVED** [review]
